US09126999B2
To a solution of 5-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)picolinic acid (458 mg, 1.02 mmol) in DMF (4.0 mL) was added N,N-diisopropylethylamine (535 μl, 3.06 mmol) and HATU (427 mg, 1.12 mmol). After stirring 1 h at rt, tert-butyl piperazine-1-carboxylate (209 mg, 1.12 mmol) was added and the reaction was stirred overnight at room temperature. Water was added and the resulting light brown precipitate was collected by filtration (0.5385 g). Purification by column chromatography (15% to 100% ethyl acetate/heptane afforded tert-butyl 4-(5-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)picolinoyl)piperazine-1-carboxylate (332 mg, 54%) as a light yellow solid.

reactant | 5-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)picolinic acid | 1.02 mmol, 458 mg | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C=2C=CC(=NC2)C(=O)O | C21H19F3N4O4
reactant | N,N-diisopropylethylamine | 3.06 mmol, 535 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 1.12 mmol, 427 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl piperazine-1-carboxylate | 1.12 mmol, 209 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | tert-butyl 4-(5-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)picolinoyl)piperazine-1-carboxylate | 332 mg, 54% | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C=2C=CC(=NC2)C(=O)N2CCN(CC2)C(=O)OC(C)(C)C | C30H35F3N6O5
